US20010018525A1
3,5-Bis-(3-formylphenyl)4-methoxymethoxybenzoic acid ethyl ester was prepared as a white solid (980 mg, 13.7%) in a similar manner to Step 1 of Example 143 from a 2:1 mixture of 3-bromo-4-methoxymethoxy-5-iodobenzoic acid ethyl ester and 3,5-dibromo4-methoxymethoxybenzoic acid ethyl ester. There also yielded 1.6 g of a mixture of benzaldehyde and the starting halogenated compound, and 1.4 g, 20.7% of the monoarylated material as a white solid. Bis-arylated compound: 1H NMR (CDCl3) δ1.38 (t, J=7.36 Hz, 3H); 2.59 (s, 3H); 4.33-4.42 (m, 4H); 7.62 (t, J=7.36 Hz, 2H); 7.79 (dd, J=8.18 Hz, 2.05 Hz, 4H); 7.97 (s, 2H); 8.02 (s, 2H); 10.11 (s, 2H). Mono-arylated compound: 1H NMR (CDCl3) δ1.38 (t, J=8.18 Hz, 3H); 3.06 (s, 3H); 4.37 (quartet, J=8.18 Hz, 2H); 4.80 (s, 2H); 7.60 (t, J=7.36 Hz, 1H); 7.77-7.82 (m, 1H); 7.87-7.91 (m, 1H); 7.96-8.00 (m, 1H); 8.01-8.06 (m, 1H); 8.26-8.30 (m, 1H).

reactant | 3-bromo-4-methoxymethoxy-5-iodobenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)I)OCOC)Br)=O | C11H12BrIO4
reactant | 3,5-dibromo4-methoxymethoxybenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)Br)OCOC)Br)=O | C11H12Br2O4
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 3,5-Bis-(3-formylphenyl)4-methoxymethoxybenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C=O)OCOC)C1=CC(=CC=C1)C=O)=O | C25H22O6
